US07601722B2
A solution of tert-butyl 4-{2-[3-(3,4-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethyl}piperazine-1-carboxylate (0.34 g, 0.69 mmol) in dichloromethane (5 mL) was treated with hydrogen chloride (2.0 mL of a 4 M solution in dioxane), resulting in a white precipitate that was evaporated and dried under vacuum to provided 1-(3,4-difluorophenyl)-3-(2-piperazin-1-ylethyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (0.2 g, 74%) as a white solid:

reactant | tert-butyl 4-{2-[3-(3,4-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethyl}piperazine-1-carboxylate | 0.69 mmol, 0.34 g | FC=1C=C(C=CC1F)N1S(N(C2=C1C=CC=C2)CCN2CCN(CC2)C(=O)OC(C)(C)C)(=O)=O | C23H28F2N4O4S
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(3,4-difluorophenyl)-3-(2-piperazin-1-ylethyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 0.2 g, 74% | FC=1C=C(C=CC1F)N1S(N(C2=C1C=CC=C2)CCN2CCNCC2)(=O)=O | C18H20F2N4O2S
